* SPDX-License-Identifier: Apache-2.0
* Four-bit active-low GF180 CML parallel load trim.
.subckt serdes_tx_load OUT LOAD_EN0_N LOAD_EN1_N LOAD_EN2_N LOAD_EN3_N VDD VSS
XBASE VDD OUT VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM0 OUT N0 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM1 OUT N1 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM2 OUT N2 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM3 OUT N3 VSS ppolyf_u r_width=1u r_length=0.8u
XSW0 N0 LOAD_EN0_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW1 N1 LOAD_EN1_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW2 N2 LOAD_EN2_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW3 N3 LOAD_EN3_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
.ends serdes_tx_load
